US06933311B2
4-tert-butoxy-2-(5-isoquinolinyl)-4-oxobutanoic acid
4-Tert-butyl 1-ethyl 2-(5-isoquinolinyl)succinate (1.00 g, 3.04 mmol) and LiOH (0.29 g) were stirred in MeOH:H2O (3:1, 20 mL) at room temperature for 5 hours. The solution was poured into aqueous H3PO4 (0.1M, 30 mL) and extracted with CHCl3:IPA (3:1, 30 mL×3). The extracts were combined, dried (MgSO4), filtered, and the filtrate was concentrated under reduced pressure to provide the title compound. MS (ESI+) m/z 302 (M+H)+; MS (ESI−) m/z 300 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.28 (s, 9H), 2.74 (dd, J1 16.7, J2 6.1, 1H), 3.10 (dd, J1 9.5, J2 6.1, 1H), 4.68 (dd, J1 16.7, J2 9.5, 1H), 7.70 (m, 2H), 8.05 (m, 2H), 8.57 (d, J 6.1, 1H), 9.33 (s, 1H); Anal. Calcd for C17H19NO4+1.25H2O: C, 63.05; H, 6.69. Found: C, 63.27; H, 6.95.

reactant | 4-Tert-butyl 1-ethyl 2-(5-isoquinolinyl)succinate | 3.04 mmol, 1.00 g | C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)CC(=O)OC(C)(C)C | C19H23NO4
reactant | LiOH | 0.29 g | [Li+].[OH-]
reactant | H3PO4 | 0.1M, 30 mL | OP(=O)(O)O | H3O4P
solvent | MeOH H2O | 20 mL | CO.O
product | 4-tert-butoxy-2-(5-isoquinolinyl)-4-oxobutanoic acid | C(C)(C)(C)OC(CC(C(=O)O)C1=C2C=CN=CC2=CC=C1)=O | C17H19NO4
